Name:  ___             Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
Aspirin / Advair Diskus / Flonase / Percocet / Flovent Diskus / 
Nexium
 
Attending: ___.
 
Chief Complaint:
Carcinoma of the Colon
 
Major Surgical or Invasive Procedure:
Laparoscopic right colectomy

 
History of Present Illness:
The patient is a ___ year old female who presented with the 
diagnosis of a tumor in the hepatic flexure for laproscopic 
colectomy. She did not have any clinic sins or symptoms of 
obstruction, but the was concern that the tumor may cause 
obstruction because of its size and location. 
 
Past Medical History:
status post laproscopic cholecystectomy
obesity
asthma
bursitis
iron deficiency anemia
Grave's disease
 
Social History:
___
Family History:
Her father died of prostate cancer.  Her mother
has a history of polyps, but is otherwise healthy, and she 
denied
any health problems of her siblings.

 
Physical Exam:
On admission:

Gen- AOx3, NAD
HEENT-  NCAT
Neck- Supple, without mass, nodes, or thyromegaly.  
Pulm- CTAB
CV- S1/S2 w/o MGR
Abd- soft, NTND. well healed laproscopic scars in upper and 
lower abdomen
Ext- No C/C/E
Neuro- CN II-XII intact, b/l symmetric strength and sensation

On Discharge:
Gen- AOx3, NAD
HEENT-  NCAT
Neck- Supple, without mass, nodes, or thyromegaly.  
Pulm- CTAB
CV- S1/S2 w/o MGR
Abd- soft, NTND. laproscopic wounds are CDI w/o surrounding 
erythema
Ext- No C/C/E
Neuro- CN II-XII intact, b/l symmetric strength and sensation

 
Pertinent Results:
___ 08:19PM   POTASSIUM-3.7
___ 08:19PM   MAGNESIUM-2.2
___ 08:19PM   HCT-28.8*
 
Brief Hospital Course:
The patient was admitted post-operatively after laproscoic right 
colectomy.  She was stable post-op, and transferred to the 
floor. Her post-op care followed the colectomy pathway. Her pain 
was controlled with morphine PCA then transitioned to vicodin 
once she was tolerating oral medications. Her diet was advanced 
slowly as tolerated. At the time of discharge, she was 
tolerating a regular diet and had regained bowel function. She 
was discharged to home on post-op day #3 in good condition.
 
Medications on Admission:
Methimazole
albuterol inhaler
 
Discharge Medications:
1. Hydrocodone-Acetaminophen ___ mg Tablet Sig: ___ Tablets PO 
every ___ hours as needed for pain.
Disp:*40 Tablet(s)* Refills:*0*
2. Methimazole 5 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
Tablet(s) 
3. Colace 100 mg Capsule Sig: One (1) Capsule PO twice a day as 
needed for constipation.
Disp:*60 Capsule(s)* Refills:*0*
4. Senna 8.6 mg Tablet Sig: One (1) Tablet PO twice a day as 
needed for constipation.
Disp:*60 Tablet(s)* Refills:*0*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Colon Cancer

 
Discharge Condition:
Mental Status: Clear and coherent
Level of Consciousness: Alert and interactive
Activity Status: Ambulatory - Independent

 
Discharge Instructions:
You were admitted to the hospital for a colectomy.  You had an 
uneventful recovery and were discharged on post operative day 
#3. You may continue to take a regular diet.  Take stool 
softeners as needed for 1 bowel movement per day. While taking 
narcotic pain mediciations, do not drive or operate heavy 
machinery. 
 
Followup Instructions:
___